US07053060B2
To a suspension of 4-(2-hydroxybenzyl)benzamide (0.063 g) and 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose (0.33 g) in toluene (3 mL) was added boron trifluoride diethyl-ether complex (0.11 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=4/1) to give 2-(4-carbamoylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside. To a solution of the obtained 2-(4-carbamoylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside in methanol (5 mL) was added sodium methoxide (0.005 g), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate/ethanol=5/1) to give 2-(4-carbamoylbenzyl)phenyl β-D-glucopyranoside (0.068 g).

reactant | 4-(2-hydroxybenzyl)benzamide | 0.063 g | OC1=C(CC2=CC=C(C(=O)N)C=C2)C=CC=C1 | C14H13NO2
reactant | 1,2,3,4,6-penta-O-acetyl-β-D-glucopyranose | 0.33 g | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C16H22O11
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-carbamoylbenzyl)phenyl 2,3,4,6-tetra-O-acetyl-β-D-glucopyranoside | C(C)(=O)O[C@H]1[C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)C(N)=O)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C28H31NO11
